US04427687
30.0 g (0.232 mol) of 2,2,4-trimethyl-3-thiazoline and 17.6 g (0.255 mol) of sodium nitrite are dissolved in 75 ml of water and 26.6 ml (0.464 mol) of acetic acid are added dropwise, with stirring at 45° C. The internal temperature of the reaction mixture is allowed to rise slowly to 10°-15° C., and the mixture is then stirred at this temperature for an additional 2 hours. The product precipitates as ochre-brown crystals and is filtered, washed with water and dried in vacuo. A single recrystallization from chloroform/n-hexane yields 5-oxo-2,2,4-trimethyl-3-thiazoline oxime, m.p. 159°-161° C.

reactant | 2,2,4-trimethyl-3-thiazoline | 0.232 mol, 30.0 g | CC1(SCC(=N1)C)C | C6H11NS
reactant | sodium nitrite | 0.255 mol, 17.6 g | N(=O)[O-].[Na+]
reactant | acetic acid | 0.464 mol, 26.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
product | 5-oxo-2,2,4-trimethyl-3-thiazoline oxime | N(O)=C1C(=NC(S1)(C)C)C | C6H10N2OS
